US05889026
1-(4-Benzyl-4-hydroxy-piperidin-1-yl)-3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-propan-2-one (0.400 g, 0.88 mmol) was dissolved in THF (4 ml) and stirred for 16 hours at room temperature in the presence of 1N tetra-n-butylammonium fluoride (1 ml, 1 mmol). The reaction mixture was quenched with 20% NH4Cl (15 ml) and the aqueous phase was extracted with ethyl acetate (3×20 ml). Combined organic phases were dried over Na2SO4 and concentrated. The residue was chromatographed over silica gel (ethyl acetate) to give a yellow oil which was dissolved in MeOH (2 ml) and treated with 1N HCl (0.5 ml). The solution was concentrated, the residue was dissolved in isopropanol (i-PrOH) and ether was added to provide 1-(4-Benzyl-4-hydroxy-piperidin-1-yl)-3-(4-hydroxy-phenyl)-propan-2-one hydrochloride (0.120 g, 36%) as white solid, m.p. 180°-181° C. and MS: m/e=340.3 (M+H+).

reactant | 1-(4-Benzyl-4-hydroxy-piperidin-1-yl)-3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-propan-2-one | 0.88 mmol, 0.400 g | C(C1=CC=CC=C1)C1(CCN(CC1)CC(CC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O)O | C27H39NO3Si
reactant | tetra-n-butylammonium fluoride | 1 mmol, 1N, 1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 1N, 0.5 ml | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | MeOH | 2 ml | CO | CH4O
product | 1-(4-Benzyl-4-hydroxy-piperidin-1-yl)-3-(4-hydroxy-phenyl)-propan-2-one hydrochloride | 0.120 g, 36% | Cl.C(C1=CC=CC=C1)C1(CCN(CC1)CC(CC1=CC=C(C=C1)O)=O)O | InChI=1S/C21H25NO3.ClH/c23-19-8-6-17(7-9-19)14-20(24)16-22-12-10-21(25,11-13-22)15-18-4-2-1-3-5-18;/h1-9,23,25H,10-16H2;1H
